US05705497
6 g of 2-(N,N-diethylamino)ethyl chloroformate dissolved in 50 ml of dichloromethane are added dropwise with stirring to a solution of 10 g of 3,6-dihydro-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-4,4-dimethyl-6-quinolyl]-6-methyl-2H-1,3,4-thiadiazin-2-one ("B") and 9.8 ml of pyridine in 100 ml of dichloromethane and the mixture is subsequently stirred at 20° C. for one hour. The solvent is removed and the mixture is worked up in the conventional manner to give 3-[2-(N,N-diethylamino)ethoxycarbonyl]-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-4,4-dimethyl-6-quinolyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one; Rf (THF) 0.65.

reactant | 2-(N,N-diethylamino)ethyl chloroformate | 6 g | ClC(=O)OCCN(CC)CC | C7H14ClNO2
reactant | 3,6-dihydro-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-4,4-dimethyl-6-quinolyl]-6-methyl-2H-1,3,4-thiadiazin-2-one | 10 g | COC=1C=C(C(=O)N2CCC(C3=CC(=CC=C23)C2=NNC(SC2C)=O)(C)C)C=CC1OC | C24H27N3O4S
reactant | pyridine | 9.8 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-[2-(N,N-diethylamino)ethoxycarbonyl]-5-[1,2,3,4-tetrahydro-1-(3,4-dimethoxybenzoyl)-4,4-dimethyl-6-quinolyl]-6-methyl-3,6-dihydro-2H-1,3,4-thiadiazin-2-one | C(C)N(CC)CCOC(=O)N1C(SC(C(=N1)C=1C=C2C(CCN(C2=CC1)C(C1=CC(=C(C=C1)OC)OC)=O)(C)C)C)=O | C31H40N4O6S
